US04829075
4-Chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone hydrazone
37.1 g (0.15 mol) of 4-chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone were refluxed for 6 hours with 37.5 g (0.3 mol) of 80% strength hydrazine hydrate in 150 ml of ethanol. After removing the solvent by distillation in vacuo, 38.5 g (98%) of the title compound were obtained as a yellow oil.

reactant | 4-chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone | 0.15 mol, 37.1 g | N1(N=CN=C1)C1(CC1)C(=O)C1=CC=C(C=C1)Cl | C12H10ClN3O
reactant | hydrazine hydrate | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4-Chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone hydrazone | 38.5 g, 98% | N1(N=CN=C1)C1(CC1)C(C1=CC=C(C=C1)Cl)=NN | C12H12ClN5
